US07790724B2
a) 1-[4-(4,4-Dimethyl-cyclohex-1-enyl)-3-nitro-phenyl]-ethanone
The title compound was prepared by the Suzuki coupling procedure of Example 11, step (e) using 1-(4-bromo-3-nitro-phenyl)-ethanone (347 mg, 1.42 mmol), and 4,4-dimethylcyclohexen-1-ylboronic acid (254 mg, 1.65 mmol). Silica gel chromatography (5-15% EtOAc/hexane) afforded the title compound (385 mg, 99%) as a faint green oil. Mass spectrum (APCI, m/z): Calcd. for C16H19NO3, 274.1 (M+H), found 274.0.

reactant | 1-(4-bromo-3-nitro-phenyl)-ethanone | 1.42 mmol, 347 mg | BrC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6BrNO3
reactant | 4,4-dimethylcyclohexen-1-ylboronic acid | 1.65 mmol, 254 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-[4-(4,4-Dimethyl-cyclohex-1-enyl)-3-nitro-phenyl]-ethanone | 385 mg, 99% | CC1(CC=C(CC1)C1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-])C | C16H19NO3
